US04229448
4 g of a potassium salt of 5-hydroxy-2-methylpyridine was suspended in 10 ml of dimethylformamide, and 6.15 g of p-bromobenzotrifluoride and 500 mg of a copper powder were added to the suspension, followed by stirring in a nitrogen stream at 125° C. for 18 hours to effect the reaction. The reaction mixture was allowed to cool, diluted with 50 ml of methanol and then filtered. The filtrate was immediately dried to a solid, and 150 ml of chloroform and 100 ml of water were added to the residue. The resulting mixture was adjusted to a pH of 9.5 with 5 N sodium hydroxide and any insoluble matter again separated by filtration. The chloroform layer was dried with anhydrous sodium sulfate and immediately concentrated to dryness to obtain 5.6 g of oily 5-(p-trifluoromethylphenoxy)-2-methylpyridine.

reactant | potassium | 4 g | [K] | K
reactant | 5-hydroxy-2-methylpyridine | OC=1C=CC(=NC1)C | C6H7NO
reactant | p-bromobenzotrifluoride | 6.15 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | methanol | 50 ml | CO | CH4O
catalyst | copper | 500 mg | [Cu] | Cu
product | 5-(p-trifluoromethylphenoxy)-2-methylpyridine | 5.6 g | FC(C1=CC=C(OC=2C=CC(=NC2)C)C=C1)(F)F | C13H10F3NO
